US07846929B2
To a solution of methanesulfonic acid 2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester (300 mg) in DMF (8 mL) was added potassium thioacetate (113 mg). The reaction was stirred at 60° C. for 16 h and then allowed to cool to room temperature. The reaction mixture was then quenched with water (20 mL) and extracted into ethyl acetate (2×20 mL). The combined organics were washed with aqueous brine solution (3×20 mL), dried (MgSO4), concentrated and purified using column chromatography to give thioacetic acid S-(2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl) ester as an off-white solid (210 mg).

reactant | methanesulfonic acid 2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester | 300 mg | CC=1N=C(C2=C(N1)C=C(S2)COS(=O)(=O)C)N2CCOCC2 | C13H17N3O4S2
reactant | potassium thioacetate | 113 mg | C(C)(=S)[O-].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | thioacetic acid S-(2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl) ester | 210 mg | CC=1N=C(C2=C(N1)C=C(S2)CSC(C)=O)N2CCOCC2 | C14H17N3O2S2
